US07825253B2
N2-(2,3-Dihydro-benzo[1,4]dioxin-5-ylmethyl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=437.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 2,3-dihydro-1,4-benzodioxin-5-ylmethylamine and 4-aminomethylindole.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 2,3-dihydro-1,4-benzodioxin-5-ylmethylamine | O1CCOC2=C1C=CC=C2CN | C9H11NO2
reactant | 4-aminomethylindole | NCC1=C2C=CNC2=CC=C1 | C9H10N2
product | N2-(2,3-Dihydro-benzo[1,4]dioxin-5-ylmethyl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine | O1CCOC2=C1C=CC=C2CNC2=NC=1C=CC=C(C1C=C2)NCC2=C1C=CNC1=CC=C2 | C27H24N4O2
